US06727264B1
A solution of 2-methyl-N-[4-methyl-3-(4-piperidinyl)phenyl]propanamide (49.0 mg, 0.190 mmol), 1-[4-chloro-1-(4-fluorophenyl)butyl]-4-fluorobenzene (58.0 mg, 0.210 mmol), NaI (42.0 mg, 0.280 mmol) and K2CO3 (52.0 mg, 0.380 mmol) in DMF (10.0 mL) was heated at 95° C. overnight. The mixture was diluted with water (20 mL) and the aqueous layer was extracted with EtOAc (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography [5% NH3 (2.0 M in MeOH) in CH2Cl2] to afford N-(3-{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-4-methylphenyl)-2-methylpropanamide (37.0 mg, 38.0%).

reactant | 2-methyl-N-[4-methyl-3-(4-piperidinyl)phenyl]propanamide | 0.190 mmol, 49.0 mg | CC(C(=O)NC1=CC(=C(C=C1)C)C1CCNCC1)C | C16H24N2O
reactant | 1-[4-chloro-1-(4-fluorophenyl)butyl]-4-fluorobenzene | 0.210 mmol, 58.0 mg | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | NaI | 0.280 mmol, 42.0 mg | [Na+].[I-]
reactant | K2CO3 | 0.380 mmol, 52.0 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | N-(3-{1-[4,4-bis(4-fluorophenyl)butyl]-4-piperidinyl}-4-methylphenyl)-2-methylpropanamide | 37.0 mg, 38.0% | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O)C1=CC=C(C=C1)F | C32H38F2N2O
